US08217086B2
Step A: {4-[3-Cyclopropylmethoxy-5-(3-morpholin-4-yl-prop-1-ynyl)-benzylsulfanyl]-2-methyl-phenoxy}-acetic acid acid ethyl ester
The title product was prepared from [4-(3-Bromo-5-cyclopropylmethoxy-benzylsulfanyl)-2-methyl-phenoxy]-acetic acid ethyl ester (200 mg; 0.43 mmol) and 4-prop-2-ynyl-morpholine (161 mg; 1.3 mmol) applying the procedure described for {4-[3-[2-(4-Chlorophenyl)-ethoxy]-5-(4-hydroxymethyl-phenylethynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester. The crude product was purified by preparative HPLC (method B). Yield: 173 mg; 79%. HPLC-MS: m/z: 510.1 (M)+; Rt: 1.9 min.

reactant | [4-(3-Bromo-5-cyclopropylmethoxy-benzylsulfanyl)-2-methyl-phenoxy]-acetic acid ethyl ester | 0.43 mmol, 200 mg | C(C)OC(COC1=C(C=C(C=C1)SCC1=CC(=CC(=C1)OCC1CC1)Br)C)=O | C22H25BrO4S
reactant | 4-prop-2-ynyl-morpholine | 1.3 mmol, 161 mg | C(C#C)N1CCOCC1 | C7H11NO
reactant | {4-[3-[2-(4-Chlorophenyl)-ethoxy]-5-(4-hydroxymethyl-phenylethynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CC1=CC=C(C=C1)CO)OCCC1=CC=C(C=C1)Cl)C)=O | C34H31ClO5S
product | {4-[3-Cyclopropylmethoxy-5-(3-morpholin-4-yl-prop-1-ynyl)-benzylsulfanyl]-2-methyl-phenoxy}-acetic acid | C1(CC1)COC=1C=C(CSC2=CC(=C(OCC(=O)O)C=C2)C)C=C(C1)C#CCN1CCOCC1 | C27H31NO5S
